US08957070B2
Ethyl 4-(propylthio)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate
To a mixed solution of ethyl 7-amino-4-(propylthio)-1H-indole-2-carboxylate (0.90 g) and pyridine (10 mL) was added 2-thiophenesulfonyl chloride (0.72 g) under ice-cooling, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:9-1:3), and the obtained crystals were recrystallized from ethyl acetate-hexane to give the title compound (0.64 g, yield 47%) as colorless needle crystals. melting point 150-151° C.

reactant | ethyl 7-amino-4-(propylthio)-1H-indole-2-carboxylate | 0.90 g | NC=1C=CC(=C2C=C(NC12)C(=O)OCC)SCCC | C14H18N2O2S
reactant | 2-thiophenesulfonyl chloride | 0.72 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-(propylthio)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.64 g, yield 47% | C(CC)SC1=C2C=C(NC2=C(C=C1)NS(=O)(=O)C=1SC=CC1)C(=O)OCC | C18H20N2O4S3
